US08420661B2
2-Bromo-5-iodopyrimidine (1.2 g, 4.2 mmol) was dissolved under nitrogen in 25 ml THF. Bis-(triphenylphosphine)-palladium(II)dichloride (300 mg, 420 μmol, 0.1 equiv.), ethynyltrimethylsilane (540 mg, 0.77 ml, 5.48 mmol, 1.3 equiv.), triethylamine (0.85 g, 1.17 ml, 8.4 mmol, 2 equiv.) and copper(I) iodide (40 mg, 210 mmol, 0.05 equiv.) were added and the mixture was stirred for 4 hours at 50° C. The reaction mixture was cooled and evaporated to dryness. The crude product was purified by flash chromatography on silica gel, eluting with an ethyl acetate:heptane gradient 0:100 to 40:60. The desired 2-bromo-5-trimethylsilanylethynyl-pyrimidine (0.75 g, 70% yield) was obtained as a yellow solid, MS: m/e=255/257 (M+H+).

reactant | 2-Bromo-5-iodopyrimidine | 4.2 mmol, 1.2 g | BrC1=NC=C(C=N1)I | C4H2BrIN2
reactant | ethynyltrimethylsilane | 5.48 mmol, 0.77 ml, 540 mg, 1.3 equiv. | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 8.4 mmol, 1.17 ml, 0.85 g, 2 equiv. | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | Bis-(triphenylphosphine)-palladium(II)dichloride | 420 μmol, 300 mg, 0.1 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 210 mmol, 40 mg, 0.05 equiv. | [Cu]I
product | 2-bromo-5-trimethylsilanylethynyl-pyrimidine | 0.75 g, 70% yield | BrC1=NC=C(C=N1)C#C[Si](C)(C)C | C9H11BrN2Si
